US08012976B2
8-(4-(Dimethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To methyl 2-(4-(dimethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (120 mg, 0.28 mmol) was added hydrazine monohydrate (20 mL) and the mixture was stirred under 40° C. for 3 h. The resulting mixture was evaporated under reduced pressure to 10 ml and then filtered, 89 mg of solid of 8-(4-(dimethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one was obtained (yield: 78%). LC-MS (ESI) m/z: 414 (M+1)+.

reactant | methyl 2-(4-(dimethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.28 mmol, 120 mg | COC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OC)OC | C26H25NO5
reactant | hydrazine monohydrate | 20 mL | O.NN
product | 8-(4-(Dimethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 89 mg, yield: 78% | COC(C1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1)OC | C25H23N3O3
